US08383644B2
(S)-2-({(3S,8S)-7-Benzoyl-3-[4-(3,3-dimethyl-butoxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid
(S)-2-{[(3S,8S)-7-Benzoyl-3-(4-hydroxy-phenyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester (18 mg) was dissolved in DCM, triphenyl phosphine (5.9 eq.). 3,3-Dimethyl-butan-1-ol (excess) added and mixture cooled on ice. DIAD (5.1 eq.) was added and the reaction mixture stirred on ice for 10 minutes and rt for 16 hours. The reaction mixture was directly purified over silica (DCM-EtOAc 8:2 to DCM-EtOAc 6:4). The resulting residue was hydrolyzed according to General Procedure B and purified over silica (DCM to DCM+1% MeOH to DCM+7% MeOH) to give the title compound (11 mg). LCMS (m/z): 769.

reactant | (S)-2-{[(3S,8S)-7-Benzoyl-3-(4-hydroxy-phenyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester | 18 mg | COC([C@H](CC1=CC=C(C=C1)C1=C(C(=NC=C1)C)C)NC(=O)[C@H]1N(CC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)O)C(C3=CC=CC=C3)=O)=O | C42H39N3O7
reactant | triphenyl phosphine | 5.9 eq. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3,3-Dimethyl-butan-1-ol | CC(CCO)(C)C | C6H14O
reactant | DIAD | 5.1 eq. | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (S)-2-({(3S,8S)-7-Benzoyl-3-[4-(3,3-dimethyl-butoxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid | 11 mg | C(C1=CC=CC=C1)(=O)N1CC=2C=C3C(=CC2C[C@H]1C(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)C1=C(C(=NC=C1)C)C)OC[C@@H](O3)C3=CC=C(C=C3)OCCC(C)(C)C | C47H49N3O7
